US07101886B2
N-[4-(2-Chloro-ethyl)-2-methyl-phenyl]-N-ethyl-acetamide was prepared according to the general method as outlined in Preparation 43 starting from N-[4-(2-chloro-ethyl)-2-methyl-phenyl]-acetamide (0.40 g, 1.89 mmol) and ethyliodide (0.189 mL, 2.36 mmol). After chromatographic purification, the product was isolated as a viscous oil (0.399 g, 1.66 mmol).

reactant | N-[4-(2-chloro-ethyl)-2-methyl-phenyl]-acetamide | 1.89 mmol, 0.40 g | ClCCC1=CC(=C(C=C1)NC(C)=O)C | C11H14ClNO
reactant | ethyliodide | 2.36 mmol, 0.189 mL | C(C)I | C2H5I
product | N-[4-(2-Chloro-ethyl)-2-methyl-phenyl]-N-ethyl-acetamide | Yield=88% | ClCCC1=CC(=C(C=C1)N(C(C)=O)CC)C | C13H18ClNO
